US07612114B2
(S)-6-{2-{{4-[2-(3,3-Dimethylpiperidin-1-yl)ethoxy]benzyl}ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (S)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 2-bromo-1-(3,3-dimethylpiperidin-1-yl)ethanone (19 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (11 mg) was obtained.

reactant | pivalic acid (S)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C31H35NO5
reactant | 2-bromo-1-(3,3-dimethylpiperidin-1-yl)ethanone | 19 mg | BrCC(=O)N1CC(CCC1)(C)C | C9H16BrNO
product | (S)-6-{2-{{4-[2-(3,3-Dimethylpiperidin-1-yl)ethoxy]benzyl}ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 11 mg | CC1(CN(CCC1)CCOC1=CC=C(CCCNC2=C(C=CC(=C2)OC)[C@@H]2CC=3C=CC(=CC3CC2)O)C=C1)C | C35H46N2O3
